US06552049B2
2,3-Dihydrofuro[3,2-f][1.4]benzodioxin-2-ylmethyl 4-methylbenzenesulfonate
A solution of 0.54 g (0.67 mmole) of (2R)-2,3,8,9-tetrahydrofuro[3,2-f][1,4]benzodioxin-2-ylmethyl 4-methylbenzenesulfonate and 0.46 g (2.0 mmole) of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone in 20 ml of benzene was refluxed under nitrogen for 15 hours. The solvent was removed in vacuum and the residue column chromatographed on silica gel with methylene chloride as eluant. The product fractions were combined and concentrated in vacuum to give 0.40 g of the (R)-enantiomer of the of the title compound as a tan solid. 1H-NMR (CDCl3): doublet 7.8 δ (2H); doublet 7.52 δ (1H); doublet 7.3 δ (2H); doublet 6.95 δ (1H); doublet 6.8 δ (1H); doublet 6.65 δ (1H); multiplet 4.5 δ (1H); multiplet 4.25 δ (3H); doublet of doublets 4.1 δ (1H); singlet 2.4 δ (3H).

reactant | (2R)-2,3,8,9-tetrahydrofuro[3,2-f][1,4]benzodioxin-2-ylmethyl 4-methylbenzenesulfonate | 0.67 mmole, 0.54 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(OC1)C=CC1=C2CCO1 | C18H18O6S
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 2.0 mmole, 0.46 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 2,3-Dihydrofuro[3,2-f][1.4]benzodioxin-2-ylmethyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(OC1)C=CC1=C2C=CO1 | C18H16O6S
